US07560558B2
6-Hydroxyquinoline (0.5 g) and iodine (1.24 g) were dissolved in methanol/water (15 ml/7.5 ml) to prepare a solution which was then stirred at room temperature for 2 hr. The solvent was removed by distillation under the reduced pressure, water was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was washed with ethyl acetate to give 6-hydroxy-5-iodo-quinoline (419 mg, yield 45%).

reactant | 6-Hydroxyquinoline | 0.5 g | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | iodine | 1.24 g | II | I2
solvent | methanol water | 15 ml | CO.O
product | 6-hydroxy-5-iodo-quinoline | 419 mg, yield 45% | OC=1C(=C2C=CC=NC2=CC1)I | C9H6INO
